US05175175
n-Octanal.
The foregoing formula may require a solubilizing agent, e.g., the methyl ester of dihydroabietic acid (commercial name: HERCOLYN D®, benzyl benzoate, isopropyl myristate and/or C12 -C14 isoparaffin hydrocarbons.

reactant | dihydroabietic acid | CC(C)C1CCC2C(=C1)CCC3C2(CCCC3(C)C(=O)O)C | C20H32O2
reactant | benzyl benzoate | C(C1=CC=CC=C1)(=O)OCC1=CC=CC=C1 | C14H12O2
reactant | isopropyl myristate | C(CCCCCCCCCCCCC)(=O)OC(C)C | C17H34O2
product | n-Octanal | C(CCCCCCC)=O | C8H16O
